US04775406
2-Chloroethyltrimethylammonium 1-(2,6-diethylphenyl)imidazole-5-carboxylate
15 pbw (0.061 mole) of 1-(2,6-diethylphenyl)imidazole-5-carboxylic acid arestirred with 10.2 pbw (0.064 mole) of choline dichloride and 5.5 pbw (0.065mole) of sodium bicarbonate in 50 pbv of water for 8 hours at 50° C.At the end of this period a homogeneous solution forms; it is evaporated, taken up in 200 pbv of methylene chloride, and is evaporated after removalof the inorganic salts by filtration. 19.6 pbw (87% of theory) of 2-chloroethyltrimethylammonium 1-(2,6-diethylphenyl)imidazole-5-carboxylate, a viscous oil, are obtained;identification is carried out by 1H-NMR spectroscopy.

reactant | 1-(2,6-diethylphenyl)imidazole-5-carboxylic acid | 0.061 mole | C(C)C1=C(C(=CC=C1)CC)N1C=NC=C1C(=O)O | C14H16N2O2
reactant | choline dichloride | 0.064 mole | [Cl-].[Cl-].OCC[N+](C)(C)C.OCC[N+](C)(C)C
reactant | sodium bicarbonate | 0.065mole | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 2-Chloroethyltrimethylammonium 1-(2,6-diethylphenyl)imidazole-5-carboxylate | C(C)C1=C(C(=CC=C1)CC)N1C=NC=C1C(=O)[O-].ClCC[N+](C)(C)C | InChI=1S/C14H16N2O2.C5H13ClN/c1-3-10-6-5-7-11(4-2)13(10)16-9-15-8-12(16)14(17)18;1-7(2,3)5-4-6/h5-9H,3-4H2,1-2H3,(H,17,18);4-5H2,1-3H3/q;+1/p-1
